US08258259B2
To a magnetically stirred solution of H-Gly-OBn.HCl (2.50 g, 12.4 mmol) in DMF (80 ml) was added TEA (4.4 ml, 31.0 mmol) followed by PNPO-Lys(Boc)2 (6.96 g, 14.9 mmol). The reaction and product isolation were carried out according to the method of Example 72.i to give BnO-GlyLys[Boc]2 as a pale yellow foam (6.42 g, 105%).

reactant | H-Gly-OBn.HCl | 12.4 mmol, 2.50 g | NCC(=O)OCC1=CC=CC=C1.Cl
reactant | PNPO Lys(Boc)2 | 14.9 mmol, 6.96 g | C1=CC(=CC=C1NC(=O)C(=O)O)[N+](=O)O.N[C@@H](CCCCN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | BnO-GlyLys[Boc]2 | 6.42 g, 105% | C(C1=CC=CC=C1)ONCC(=O)N[C@@H](CCCCN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)O | C25H39N3O8
